US08202865B2
Step 1: methyl 2′-methyl-2-nitro-1,1′-biphenyl-4-carboxylate
To a solution of methyl 4-bromo-3-nitrobenzoate (Chess, 3 g, 11.53 mmol) in toluene (100 mL) and water (100 mL) was added o-tolylboronic acid (1.88 g, 13.84 mmol) followed by potassium carbonate (7.972 g, 57.68 mmol), tetrakis(triphenylphosphine)palladium(0) (0.668 g, 0.577 mmol). The reaction mixture was refluxed at 120° C. for 14 h. After the completion of reaction, it was cooled to RT and organic layer was separated and evaporated under reduced pressure. The crude compound was passed through silica pad (60-120 mesh) using hexane as eluent to give the title compound as a white solid (2.5 g, 79%). 1H NMR: (DMSO-d6, 400 MHz) δ 8.52 (s, 1H), 8.29-8.26 (m, 1H), 7.63-7.61 (m, 1H), 7.34-7.33 (m, 2H), 7.23 (m, 1H), 7.13 (m, 1H), 3.94 (s, 3H), 2.04 (s, 3H).

reactant | methyl 4-bromo-3-nitrobenzoate | 11.53 mmol, 3 g | BrC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | o-tolylboronic acid | 13.84 mmol, 1.88 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | potassium carbonate | 57.68 mmol, 7.972 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.577 mmol, 0.668 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2′-methyl-2-nitro-1,1′-biphenyl-4-carboxylate | 2.5 g, 79% | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)OC)[N+](=O)[O-] | C15H13NO4
